US08895544B2
To a stirring solution of (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone (150 mg, 0.154 mmol) in DMSO (1.5 mL) were added DIPEA (0.143 mL, 0.87 mmol) and (2R,6S)-2,6-Dimethyl-piperazine-1-carboxylic acid tert-butyl ester (124 mg, 0.58 mmol) and the mixture stirred at room temperature for 18 hours. The crude reaction mass was purified by prep-HPLC Method F to afford (3R,5S)-5′-{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carbonyl}-3,5-dimethyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester as an off white solid (80 mg, 40%).

reactant | (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone | 0.154 mmol, 150 mg | ClC=1N=CC(=NC1)C(=O)N1CC2=C(CC1)NC(=N2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)F)O)CC | C26H21ClFN7O2
reactant | DIPEA | 0.87 mmol, 0.143 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,6S)-2,6-Dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.58 mmol, 124 mg | C(C)(C)(C)OC(=O)N1[C@@H](CNC[C@@H]1C)C | C11H22N2O2
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | (3R,5S)-5′-{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridine-5-carbonyl}-3,5-dimethyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CN(C[C@@H]1C)C1=NC=C(N=C1)C(=O)N1CC2=C(CC1)NC(=N2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)F)O)CC)C | C37H42FN9O4
